US04219660
Preparation of 1-acetoxy-4-nitro-2-cycloheptene
To 0.6 Mol of acetic anhydride were added at 25° C. 0.16 Mol 90% HNO3 over 30 minutes. The mixture was stirred for an additional 15 minutes before 0.1 Mol of 1,3-cyclo-heptadiene was added over a 45 minute period, maintaining the temperature at 25° C. The reaction mixture was stirred for an additional 45 minutes before it was poured onto ice water and extracted with methylene chloride. An oily residue (100.5% weight yield) was obtained, which was purified by column chromatography, using silica gel and benzene/ethylacetate 4:1 as eluent. The product has the appearance of a yellow oil.

reactant | acetic anhydride | 0.6 Mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | HNO3 | 0.16 Mol | [N+](=O)(O)[O-] | HNO3
reactant | 1,3-cyclo-heptadiene | 0.1 Mol | C1=CC=CCCC1 | C7H10
product | 1-acetoxy-4-nitro-2-cycloheptene | C(C)(=O)OC1C=CC(CCC1)[N+](=O)[O-] | C9H13NO4
